US06953801B2
To an ice chilled solution containing 4-[1-(4-methoxy-2,3-dimethyl-phenyl)-ethyl]-piperazine-1-carboxylic acid tert-butyl ester (0.4 g 1.38 mmol) and 10 ml dichloromethane, was added trifluoroacetic acid (2 ml) dropwise. The reaction was stirred at room temperature for 2 hours. The reaction was concentrated. The residue was purified by flash chromatography on silica gel eluted, with 10% MeOH(NH3)/dichloromethane. 1-[1-(4-Methoxy-2,3-dimethyl-phenyl)-ethyl]-piperazine was obtained as a yellow oil (0.16 g 47%). Analysis H1 NMR (400 MHz, CDCl3): 7.23 (1H, d), 6.69 (1H, d), 3.8 (3H, s), 3.55 (1H, q), 3.484 (2H, s), 2.838 (4H, m), 2.47 (2H, m), 2.38 (2H, m), 2.271 (3H, s), 2.167 (3H, s), 1.26 (3H, d). MS (LC-MS): Calculated for C15H24N2O 248.36, found 249.25 (M+).

reactant | 4-[1-(4-methoxy-2,3-dimethyl-phenyl)-ethyl]-piperazine-1-carboxylic acid tert-butyl ester | 1.38 mmol, 0.4 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C)C1=C(C(=C(C=C1)OC)C)C | C20H32N2O3
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-[1-(4-Methoxy-2,3-dimethyl-phenyl)-ethyl]-piperazine | COC1=C(C(=C(C=C1)C(C)N1CCNCC1)C)C | C15H24N2O
